US07435815B2
2-[(4-tert-Butyl-benzenesulfonyl)-phenyl-amino]-N-ethyl-N-methyl-acetamide
prepared by reaction of 2-bromoacetyl bromide with ethylmethylamine, aniline and 4-tert-butyl-benzenesulfonyl chloride

reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | ethylmethylamine | C(C)NC | C3H9N
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | 4-tert-butyl-benzenesulfonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | 2-[(4-tert-Butyl-benzenesulfonyl)-phenyl-amino]-N-ethyl-N-methyl-acetamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(CC(=O)N(C)CC)C1=CC=CC=C1 | C21H28N2O3S
